US07858640B2
[8-chloro-3-(4-chloro-2-fluorobenzyl)-4-difluoromethoxy-2-ethylquinolin-5-yloxy]acetic Acid
A mixture of [8-chloro-3-(4-chloro-2-fluorobenzyl)-4-difluoromethoxy-2-ethyl-quinolin-5-yloxy]acetic acid methyl ester (0.075 g), tetrahydrofuran (2.0 mL) and 1.0 M aqueous lithium hydroxide solution (0.20 mL) was stirred at room temperature for 2 hour. The solvent was removed under reduced pressure and the residue diluted with water. The pH of mixture was adjusted to 4 by the addition of sodium dihydrogenphosphate and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and solvent removed under reduced pressure. The residue was crystallised from a mixture of acetonitrile and water to afford title compound, 0.057 g.

reactant | [8-chloro-3-(4-chloro-2-fluorobenzyl)-4-difluoromethoxy-2-ethyl-quinolin-5-yloxy]acetic acid methyl ester | 0.075 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)CC)CC1=C(C=C(C=C1)Cl)F)OC(F)F)=O | C22H18Cl2F3NO4
reactant | lithium hydroxide | 1.0 M, 0.20 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | [8-chloro-3-(4-chloro-2-fluorobenzyl)-4-difluoromethoxy-2-ethylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)CC)CC1=C(C=C(C=C1)Cl)F)OC(F)F)OCC(=O)O | C21H16Cl2F3NO4
